US08729079B2
d: 4-(methylthio)-2-phenylpyrimido[4,5-d]pyridazin-5(6H)-one
To a solution of ethyl 4-formyl-6-(methylthio)-2-phenylpyrimidine-5-carboxylate (600 mg, 1.98 mmol) in ethanol (15 mL) was added hydrazine dihydrochloride (0.2 g, 1.98 mmol) and the mixture refluxed for 1 hour. The precipitated solid was filtered and dried in vacuum. The desired product (520 mg) was obtained by column chromatography over silica gel using methanol/dichloromethane as eluent. 1H-NMR (400 Hz, DMSO-d6): δ 13.19 (s, 1H), 8.54 (d, J=8.0 Hz, 2H), 8.36 (s, 1H), 7.64-7.58 (m, 3H), 2.67 (s, 3H); MS m/z 271.1 (M+1).

reactant | ethyl 4-formyl-6-(methylthio)-2-phenylpyrimidine-5-carboxylate | 1.98 mmol, 600 mg | C(=O)C1=NC(=NC(=C1C(=O)OCC)SC)C1=CC=CC=C1 | C15H14N2O3S
reactant | hydrazine dihydrochloride | 1.98 mmol, 0.2 g | Cl.Cl.NN
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-(methylthio)-2-phenylpyrimido[4,5-d]pyridazin-5(6H)-one | 520 mg | CSC1=NC(=NC=2C=NNC(C21)=O)C2=CC=CC=C2 | C13H10N4OS
